US08022222B2
Using the method of Example 32, 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol), ethyl carbonochloridate (0.03213 mL, 0.3360 mmol), 1-ethylpiperazine (0.1164 mL, 0.9164 mmol) in THF (2 mL) were reacted to provide (4-ethylpiperazin-1-yl)(2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenyl)methanone dihydrochloride (0.05 g, 32.64% yield). 1H NMR (DMSO) δ 8.18 (d, 1H), 7.6859 (dt, 1H), 7.54 (d, 1H), 7.42 (t, 1H), 7.29 (d, 1H), 6.59 (m, 2H), 6.56 (m, 1H), 3.35-3.63 (m, 4H), 3.12 (m, 2H), 2.50 (m, 4H, under DMSO), 2.22 (d, 3H), 1.22 (t, 2H); Mass spectrum (esi) m/z=424(100) (M+H).

reactant | 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)-benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC1=C(C(=O)O)C=CC=C1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3360 mmol, 0.03213 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-ethylpiperazine | 0.9164 mmol, 0.1164 mL | C(C)N1CCNCC1 | C6H14N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4-ethylpiperazin-1-yl)(2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)phenyl)methanone dihydrochloride | 0.05 g, 32.64% yield | Cl.Cl.C(C)N1CCN(CC1)C(=O)C1=C(C=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C22H25N5O2S.2ClH/c1-3-26-10-12-27(13-11-26)21(28)18-6-4-5-7-19(18)29-17-8-9-23-20(14-17)25-22-24-16(2)15-30-22;;/h4-9,14-15H,3,10-13H2,1-2H3,(H,23,24,25);2*1H
